US06235742B1
N-(5-carbamoyl-1-methyl-3-propyl-1H-4-pyrazolyl)-2-[4-(morpholinomethyl)phenyl]acetamide
Morpholine (0.3 ml, 0.00344 mol) was added to a solution of N-(5-carbamoyl-1-methyl-3-propyl-1H-4-pyrazolyl)-2-(4-bromobenzyl)acetamide (400 mg, 0.001 mol) in acetonitrile (3 ml) and the reaction stirred at reflux for 2 hours. On cooling, the reaction was concentrated under reduced pressure.

reactant | Morpholine | 0.00344 mol, 0.3 ml | N1CCOCC1 | C4H9NO
reactant | N-(5-carbamoyl-1-methyl-3-propyl-1H-4-pyrazolyl)-2-(4-bromobenzyl)acetamide | 0.001 mol, 400 mg | C(N)(=O)C1=C(C(=NN1C)CCC)NC(CCC1=CC=C(C=C1)Br)=O | C17H21BrN4O2
reactant | acetonitrile | 3 ml | C(C)#N | C2H3N
product | N-(5-carbamoyl-1-methyl-3-propyl-1H-4-pyrazolyl)-2-[4-(morpholinomethyl)phenyl]acetamide | C(N)(=O)C1=C(C(=NN1C)CCC)NC(CC1=CC=C(C=C1)CN1CCOCC1)=O | C21H29N5O3
